US07064124B2
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoyl]piperidine
Piperidine (0.358 g, 4.20 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.21 g, 6.30 mmol) were added to a methylene chloride solution (50 ml) of 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid (0.95 g, 2.10 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=50:1) to obtain the titled compound (1.02 g, 2.09 mmol, 99%).

reactant | Piperidine | 4.20 mmol, 0.358 g | N1CCCCC1 | C5H11N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 6.30 mmol, 1.21 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid | 2.10 mmol, 0.95 g | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C26H28O7
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoyl]piperidine | 2.09 mmol, 1.02 g, 99% | COC=1C(=C(CC=2C=CC(=C(C(=O)N3CCCCC3)C2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C31H37NO6
